US06313293B1
4-Amino-2-chloro-6,7-bismethoxyquinazoline (III) (3.2 grams, 13.35 mmole), Compound 4 from Example 2 (3.4 grains, 13.75 mmole) and n-butanol (72 ml) were subjected to a 50 ml round-bottom flask and heated under refluxing for 3.5 hours under a nitrogen atmosphere. Cooling to 75° C., the solid products were filtered and collected, dried in an oven to obtain 5.25 grams of Doxazosin hydrochloride (10.76 mmole, Yield: 81%). The Doxazosin hydrochloride was added to a 1N NaOH solution and heated for dissolution. After cooling, the solution was extracted with 150 ml of dichloromethane twice. The organic layer was filtered and dried with anhydrous sulfate, and concentrated to obtain 4.61 grams of white Doxazosin solid: 1H NMR (CDCl3) δ 3.63-4.09 (m, 8 H), 3.91 (s, 3H), 3.96 (s, 3H), 4.35 (dd, J=11.9, 7.9 Hz, 1H), 4.52 (dd, J=11.9, 2.4 Hz, 1H), 4.88 (dd, J=7.9, 2.4 Hz, 1H), 6.85-6.95 (m, 5H)

reactant | Doxazosin hydrochloride | COC1=C(C=C2C(=C1)C(=NC(=N2)N3CCN(CC3)C(=O)C4COC5=CC=CC=C5O4)N)OC.Cl
reactant | NaOH | 1N | [OH-].[Na+]
product | Doxazosin | 4.61 grams | COC=1C=C2C(=CC1OC)N=C(N=C2N)N3CCN(CC3)C(=O)C4COC=5C=CC=CC5O4 | C23H25N5O5
